2191-04-20 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -psych saw pt and needs to have in pt psych stay as he had severe
   suicidal ideation at home, pt not aware that he'll need to stay yet
   -pt cannot leave AMA until reassessed tomorrow. No section 12 at this
   point.
   -standing valium 10mg TID PO standing and CIWA valium 10mg q1hr
   -IV thiamine x 5 days and MVI/folate
   -no Ativan per
   -got IVF with bicarb
   -Haldol 2.5IV prn agitation
   -1:1 security and then sitter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-4-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-19**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-20**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 66 (60 - 126) bpm
   BP: 148/93(105) {116/56(74) - 164/96(111)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  8,030 mL
                                                                     40 mL
   PO:
                                                                  2,820 mL
             TF:
   IVF:
                                                                  1,210 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    550 mL
   Urine:
                                                                  3,400 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,630 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   13.0 g/dL
   79 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   140 mEq/L
   37.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2191-4-19**]  08:01 AM
                             [**2191-4-19**]  03:37 PM
                             [**2191-4-20**]  03:55 AM
   WBC
   9.4
   8.1
   Hct
   37.1
   37.9
   Plt
   303
   312
   Cr
   0.8
   0.9
   0.8
   Glucose
   41
   125
   79
   Other labs: Differential-Neuts:64.6 %, Lymph:26.3 %, Mono:4.6 %,
   Eos:4.0 %, Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   38 yo male with long-standing cocaine and alcohol abuse, suicide
   attempt in [**2186**] presents with suicidality in the setting of
   cocaine/etoh intoxication.
   .
   #. Agitation - Cocaine likely the cause for his agitation in the ED.
   Has prior history of heroine and methamphetamine use which may also be
   playing a role although he denies.
   - restraints, Haldol prn
   .
   #. Tachycardia - Likely secondary to withdrawal, although not likely to
   be from ETOH withdrawal with his ETOH level on presentation almost 400.
   No evidence of infection, anemia.
   - supportive management, IVF prn
   - CIWA w/ prn Valium
   .
   #. Suicide ideation - Prior history of attempt in [**2186**] by hanging. In
   ED reporting SI, currently denies.
   - psych eval prior to discharge, reeval patient when more alert
   - 1:1 sitter
   .
   #. Anion Gap acidosis - [**1-31**] AKA
   - monitor after IVF resusciation
   .
   #. Hypernatremia - Likely [**1-31**] altered mental status, ETOH ingestion
   - recheck Na on admission after 5L IVF resuscitation
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx - GI ppx H2 blocker
   -DVT ppx with SQ Heparin
   -Bowel regimen prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-19**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-04-21 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Per psych will go for psych inpt. stay
   did not require PRN valium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-4-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-21**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-21**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 68 (60 - 99) bpm
   BP: 165/83(98) {138/83(98) - 165/95(108)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
                  Total In:
                                                                    580 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,525 mL
   Urine:
                                                                  2,600 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,020 mL
                                                                 -1,525 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: A/Ox3, appears visibly irritated, not anxious, no tremor
   HEENT: No icterus
   Heart: RRR, No MRG
   Lungs: CTAB
   Abd: Soft, NT, ND, BS+
   Ext: No edema, 2+ DP pulses
   Labs / Radiology
   308 K/uL
   13.5 g/dL
   90 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   40.0 %
   5.2 K/uL
         [image002.jpg]
                             [**2191-4-19**]  08:01 AM
                             [**2191-4-19**]  03:37 PM
                             [**2191-4-20**]  03:55 AM
                             [**2191-4-21**]  04:47 AM
   WBC
   9.4
   8.1
   5.2
   Hct
   37.1
   37.9
   40.0
   Plt
   [**Telephone/Fax (3) 8800**]
   Cr
   0.8
   0.9
   0.8
   0.7
   Glucose
   41
   125
   79
   90
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   38 yo male with long-standing cocaine and alcohol abuse, suicide
   attempt in [**2186**] presents with suicidality in the setting of
   cocaine/etoh intoxication, now sober.
   .
   #. Agitation
 Likely has detoxed from cocaine and only appears
   irritated that he has to stay in hospital. No restraints and no PRN
   haldol x 24hrs.
   - restraints, Haldol prn
   .
   #. Tachycardia
 resolved, has not required PRN diazepam.
   - [**Month (only) 60**] come off monitor to avoid further conflict
   - supportive management, IVF prn
   - CIWA w/ prn Valium
   .
   #. Suicide ideation
 Currently denying, but pt. will require psych
   admission when bed available.
   - may not leave AMA
   - 1:1 sitter
   .
   #. Anion Gap acidosis
 resolved, bicarb 25.
   .
   #. Hypernatremia - resolved
   - recheck Na on admission after 5L IVF resuscitation
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx - GI ppx H2 blocker
   -DVT ppx with SQ Heparin
   -Bowel regimen prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-19**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical care
   Present for the key portions of Dr. [**Last Name (STitle) 8605**]
s history and exam. Agree
   substantially with assessment and plan. We are working to provide an
   inpatient psychiatry hospital for his continuing severe depression and
   substance abuse.  Time spent 30 min

2191-04-22 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-21**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-22**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 76 (76 - 89) bpm
   BP: 153/70(92) {135/70(92) - 153/98(110)} mmHg
   RR: 18 (8 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
                  Total In:
                                                                    340 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    500 mL
   Urine:
                                                                  3,375 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,035 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: A/Ox3, appears visibly irritated, not anxious, no tremor
   HEENT: No icterus
   Heart: RRR, No MRG
   Lungs: CTAB
   Abd: Soft, NT, ND, BS+
   Ext: No edema, 2+ DP pulses
   Labs / Radiology
   308 K/uL
   13.5 g/dL
   90 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   141 mEq/L
   40.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2191-4-19**]  08:01 AM
                             [**2191-4-19**]  03:37 PM
                             [**2191-4-20**]  03:55 AM
                             [**2191-4-21**]  04:47 AM
   WBC
   9.4
   8.1
   5.2
   Hct
   37.1
   37.9
   40.0
   Plt
   [**Telephone/Fax (3) 8800**]
   Cr
   0.8
   0.9
   0.8
   0.7
   Glucose
   41
   125
   79
   90
   Other labs: Differential-Neuts:64.6 %, Lymph:26.3 %, Mono:4.6 %,
   Eos:4.0 %, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
   38 yo male with long-standing cocaine and alcohol abuse, suicide
   attempt in [**2186**] presents with suicidality in the setting of
   cocaine/etoh intoxication, now sober.
   .
   #. Agitation
 Likely has detoxed from cocaine and only appears
   irritated that he has to stay in hospital. No restraints and no PRN
   haldol x 24hrs.
   - restraints, Haldol prn
   .
   #. Tachycardia
 resolved, has not required PRN diazepam.
   - [**Month (only) 60**] come off monitor to avoid further conflict
   - supportive management, IVF prn
   - CIWA w/ prn Valium
   .
   #. Suicide ideation
 Currently denying, but pt. will require psych
   admission when bed available.
   - may not leave AMA
   - 1:1 sitter
   .
   #. Anion Gap acidosis
 resolved, bicarb 25.
   .
   #. Hypernatremia - resolved
   - recheck Na on admission after 5L IVF resuscitation
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx - GI ppx H2 blocker
   -DVT ppx with SQ Heparin
   -Bowel regimen prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-19**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: